US07338959B2
(4-{4-[(2-Benzylamino-1-methyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-phenyl)-methanesulfonamide hydrochloride
The title compound was prepared following the procedure of Example 1 with N2-benzyl-N5-(2-chloropyrimidin-4-yl)-N5,1-dimethyl-1H-benzimidazole-2,5-diamine (95 mg, 0.25 mmol) and (4-amino-phenyl)-methanesulfonamide (46 mg, 0.25 mmol) to give the desired product as a white solid (85 mg, 60%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 10.17 (brs, 2H), 9.53 (brs, 1H), 7.90 (d, J=6.6 Hz, 1H), 7.61 (d, J=8.4 Hz, 3H), 7.51 (d, J=7.5 Hz, 2H), 7.22-7.39 (m, 6H), 6.82 (s, 2H), 5.87 (d, J=6.0 Hz, 1H), 4.76 (d, J=5.7 Hz, 2H), 4.19 (s, 2H), 3.74 (s, 3H) 3.49 (s, 3H). MS (ESI) m/z=529 [M+H]+.

reactant | N2-benzyl-N5-(2-chloropyrimidin-4-yl)-N5,1-dimethyl-1H-benzimidazole-2,5-diamine | 0.25 mmol, 95 mg | C(C1=CC=CC=C1)NC1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)Cl | C20H19ClN6
reactant | (4-amino-phenyl)-methanesulfonamide | 0.25 mmol, 46 mg | NC1=CC=C(C=C1)CS(=O)(=O)N | C7H10N2O2S
product | (4-{4-[(2-Benzylamino-1-methyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-phenyl)-methanesulfonamide hydrochloride | 85 mg, 60% | Cl.C(C1=CC=CC=C1)NC1=NC2=C(N1C)C=CC(=C2)N(C2=NC(=NC=C2)NC2=CC=C(C=C2)CS(=O)(=O)N)C | InChI=1S/C27H28N8O2S.ClH/c1-34(25-14-15-29-26(33-25)31-21-10-8-20(9-11-21)18-38(28,36)37)22-12-13-24-23(16-22)32-27(35(24)2)30-17-19-6-4-3-5-7-19;/h3-16H,17-18H2,1-2H3,(H,30,32)(H2,28,36,37)(H,29,31,33);1H
